US07598391B2
1-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-pyrrolidine-3-carboxylic acid
1-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-pyrrolidine-3-carboxylic acid benzyl ester (30 mg, 0.057 mmol) was combined with palladium on carbon (20 mg) in MeOH. Vacuum was applied to degas the mixture. The reaction was subjected to hydrogen and vigorous stirring until no ester could be detected (24 h). After filtering and concentration, the pure acid was obtained by trituration.

reactant | 1-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-pyrrolidine-3-carboxylic acid benzyl ester | 0.057 mmol, 30 mg | C(C1=CC=CC=C1)OC(=O)C1CN(CC1)CC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1 | C29H40N4O3S
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | 1-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-pyrrolidine-3-carboxylic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)CN1CC(CC1)C(=O)O)=O)C1CCCCC1 | C22H34N4O3S
